US08012965B2
2-Chloro-5,8-methano-5,6,7,8-tetrahydroquinazoline was dissolved in anhydrous pyridine (30 mL) and treated with anhydrous hydrazine (15 mL) at 120° C. for 5 h. The solvent was removed under vacuum. The residue was partitioned between chloroform and 1M aqueous potassium carbonate solution. The organic layer was dried over anhydrous sodium sulfate and concentrated to give 2-hydrazino-5,8-methano-5,6,7,8-tetrahydroquinazoline as a tan solid, 2.68 g; 1H NMR (CDCl3, 300 MHz) 7.99 (s, 1H), 7.93 (br s, 1H), 3.90 (br s, 2H), 3.48 (s, 1H), 3.23 (s, 1H), 1.97 (m, 2H), 1.76 (d, 1H), 1.55 (d, 1H), 1.20-1.35 (m, 2H) ppm; 13C NMR (CDCl3, 75 MHz ) 179.48, 163.48, 147.10, 129.57, 47.58, 45.45, 39.86, 27.82, 25.46; MS(ES) 177 (M+H).

reactant | 2-Chloro-5,8-methano-5,6,7,8-tetrahydroquinazoline | C1CC2CC1C3=CN=C(N=C23)Cl | C9H9ClN2
reactant | hydrazine | 15 mL | NN | H4N2
solvent | pyridine | 30 mL | N1=CC=CC=C1 | C5H5N
product | 2-hydrazino-5,8-methano-5,6,7,8-tetrahydroquinazoline | C1CC2CC1C3=CN=C(N=C23)NN | C9H12N4
